US03936470
A mixture of 11.8 parts of 3-(2,6-dimethylphenoxy)-1,2-propanediol, 13.6 parts of 2-bromo-1-(2,4-dichlorophenyl)-1-ethanone, 3 parts of 4-methylbenzenesulfonic acid, 80 parts of butanol and 180 parts of methylbenzene is stirred and refluxed for 3 days. The reaction mixture is evaporated and the residue is dissolved in 2,2'-oxybispropane. The solution is stirred for 30 minutes with silica gel. The latter is filtered off and the filtrate is evaporated, yielding A + B 2-(bromomethyl)-2-(2,4-dichlorophenyl)-4-(2,6-dimethylphenoxymethyl)-1,3-dioxolane as a residue.

reactant | 3-(2,6-dimethylphenoxy)-1,2-propanediol | CC1=C(OCC(CO)O)C(=CC=C1)C | C11H16O3
reactant | 2-bromo-1-(2,4-dichlorophenyl)-1-ethanone | BrCC(=O)C1=C(C=C(C=C1)Cl)Cl | C8H5BrCl2O
reactant | 4-methylbenzenesulfonic acid | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
reactant | butanol | C(CCC)O | C4H10O
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | 2-(bromomethyl)-2-(2,4-dichlorophenyl)-4-(2,6-dimethylphenoxymethyl)-1,3-dioxolane | BrCC1(OCC(O1)COC1=C(C=CC=C1C)C)C1=C(C=C(C=C1)Cl)Cl | C19H19BrCl2O3
